Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with obesity and htn presents to ED for evaluation of 1 hour 
epigastric pain with radiation to the back associated with 
diaphoresis, nausea,dry heaves. Described the pain as initially 
sharp, but now has residual dull sensation in epigastrium and 
over xiphoid process. She reports similar symptoms 1 week ago 
that resolved spontaneously. No recent illness, no fever. Pain 
seemed to be triggered by eating. ___ pain which took her 
breath away. + diaphoresis. She tried to make herself throw up 
without success. She had some constipation earlier during the 
week of admission which resolved with OTC stool softners.  

In ER: (Triage Vitals: ___, 77, /146/67, 22 ,97% RA ) 
Meds Given: None
Fluids given: 1 L NS
Radiology Studies:RUQ US
consults called: none

REVIEW OF SYSTEMS:
 CONSTITUTIONAL:  No fevers/chills/weight loss
 HEENT:  [X] All normal
 RESPIRATORY:  [X] All normal except for sob when pain was 
intense
 CARDIAC:  [X] All normal
 GI:  As per HPI
 GU:  [X] All normal
 SKIN:  [X] All normal
 MUSCULOSKELETAL:  [+] chronic arthritis but no new msk sx
 NEURO:  [X] All normal
 ENDOCRINE:  [X] All normal
 HEME/LYMPH:  [X]  All normal
 PSYCH:  [X] All normal
All other systems negative except as noted above

 

 
Past Medical History:
PAST MEDICAL HISTORY: 
 Minor thalassemia, arthritis, obesity, and depression.

PAST SURGICAL HISTORY:  
Gastric bypass surgery, abdominoplasty, left total knee 
replacement, knee arthroscopy, and bladder mesh.

 
Social History:
___
Family History:
Father with brain cancer and he died in his ___, 
thalassemia, and arthritis.
 
Physical Exam:
Admission exam:
 Vitals:  T 99.1  P 85  BP 123/60  RR 18  SaO2 97% on RA 
 GEN: Obese, very pleasant female NAD, comfortable appearing  
 HEENT: ncat anicteric MMM  
 NECK:  supple
 CV: s1s2 rr early peaking SEM at LUSB 
 RESP: b/l ae no w/c/r  
 ABD: +bs, soft, mild epigastric tendernesss, ND, no guarding or 
rebound  
 EXTR:no c/c/e 2+pulses  
 DERM: no rash  
 NEURO: face symmetric speech fluent  
 PSYCH: calm, cooperative  

Discharge:
Vitals: 97.9, 134/72, 89, 20, 96% RA 
Gen: NAD, sitting in chair
Eyes: EOMI, sclerae anicteric  
Cardiovasc: RRR, no MRG
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+, no rebound, negative ___
MSK: No edema
Skin: No visible rash. 
Neuro: AAOx3.
Psych: Full range of affect

 
Pertinent Results:
Admission labs:
___ 10:00PM URINE  HOURS-RANDOM
___ 10:00PM URINE  HOURS-RANDOM
___ 10:00PM URINE  UHOLD-HOLD
___ 10:00PM URINE  GR HOLD-HOLD
___ 10:00PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 10:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-4* PH-6.0 LEUK-NEG
___ 10:00PM URINE  RBC-0 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 10:00PM URINE  AMORPH-RARE
___ 10:00PM URINE  RBC-0 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 10:00PM URINE  AMORPH-RARE
___ 10:00PM URINE  MUCOUS-RARE
___ 08:16PM   GLUCOSE-143* UREA N-20 CREAT-0.5 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-25 ANION GAP-17
___ 08:16PM   estGFR-Using this
___ 08:16PM   ALT(SGPT)-152* AST(SGOT)-298* ALK PHOS-331* 
TOT BILI-1.0
___ 08:16PM   LIPASE-2691*
___ 08:16PM   cTropnT-<0.01
___ 08:16PM   cTropnT-<0.01
___ 08:16PM   WBC-12.9*# RBC-4.65 HGB-9.3* HCT-29.4* 
MCV-63* MCH-20.0* MCHC-31.6* RDW-16.0* RDWSD-35.6
___ 08:16PM   NEUTS-87.1* LYMPHS-5.9* MONOS-6.3 EOS-0.2* 
BASOS-0.2 IM ___ AbsNeut-11.22* AbsLymp-0.76* AbsMono-0.81* 
AbsEos-0.03* AbsBaso-0.02
___ 08:16PM   PLT COUNT-443*
========================
ADMISSION RUQ US;
IMPRESSION:  
  
1. No acute abnormality identified. 
2. Stable prominent intrahepatic biliary ducts and prominence of 
the common 
bile duct. 
3. If there is persistent concern for retained pancreatic duct 
stone, MRCP 
can be obtained. 

___ MRCP:
1.  Findings in the pancreatic head inferiorly and posteriorly 
and uncinate process are consistent with pancreatitis.  This is 
likely related to significant enlargement of a large duodenal 
diverticulum, which is causing mass effect on the pancreatic 
head. 
  
2.  Intrahepatic biliary ductal dilation is stable from ___ and is likely related to post cholecystectomy state and 
mass effect from a large duodenal diverticulum. 
  
3.  Bilateral, partially imaged chest wall masses between the 
latissimus dorsi and serratus anterior are consistent with 
fibroelastoma dorsi. 

Discharge:
___ 06:40AM BLOOD WBC-7.7 RBC-4.61 Hgb-9.1* Hct-29.2* 
MCV-63* MCH-19.7* MCHC-31.2* RDW-15.7* RDWSD-34.5* Plt ___
___ 06:40AM BLOOD ___ PTT-30.9 ___
___ 06:40AM BLOOD Glucose-94 UreaN-10 Creat-0.5 Na-141 
K-4.5 Cl-102 HCO3-30 AnGap-14
___ 06:40AM BLOOD ALT-62* AST-30 AlkPhos-232* TotBili-0.3
___ 06:50AM BLOOD Lipase-173*
___ 06:40AM BLOOD Calcium-9.4 Phos-4.1 Mg-2.1
___ 06:50AM BLOOD calTIBC-287 VitB12-___* Ferritn-160* 
TRF-___ with history of obesity s/p gastric bypass, OA s/p L TKR, 
thalassemia minor, and depression who presents with epigastric 
pain and labs c/f gallstone pancreatitis.

# Acute pancreatitis, Transaminitis: Given the pattern of LFT 
elevation, clinical picture most c/f gallstone pancreatitis. 
MRCP shows no stones or CBD obstruction,
but does show duodenal diverticulum compressing the pancreas and 
potentially causing nearby inflammation. Per ERCP, no indication 
for ERCP procedure, but recommended McDermot consultation for 
diverticulum. Surgery plans to remove remnant gall bladder as 
outpatient. Less suspicious on diverticulum as culprit. 
Patient's pain and LFTs improved with conservative measures and 
she was able to tolerate full diet. Surgical team will contact 
patient follow up outpatient appointment.

# OA: Continue home celecoxib for now

# GERD: Continue home PPI

# Depression: Continue home Zoloft

 
Medications on Admission:
Medications - Prescription
CELECOXIB [CELEBREX] - T daily 
FLUORIC ACID T to assist with digestion 
HYDROCODONE-ACETAMINOPHEN [VICODIN] - Dosage uncertain -  
(Prescribed by Other Provider)
METHYLPREDNISOLONE - methylprednisolone 4 mg tablets in a dose 
pack. 1 tablets(s) by mouth as directed on pack
OMEPRAZOLE [PRILOSEC] - Dosage uncertain -  (Prescribed by Other 
Provider)
SERTRALINE [ZOLOFT] - Dosage uncertain -  (Prescribed by Other 
Provider)
50 mg daily
OXYBUTYNIN TAB 5MG ER daily 

HYDROCO/APAP TAB ___ T bid prn pain
 
Discharge Medications:
1. Omeprazole 20 mg PO DAILY 
2. Sertraline 50 mg PO DAILY 
3. Celecoxib 200 mg ORAL DAILY 
4. Cyanocobalamin 1000 mcg IM/SC Q MONTH 
5. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO BID pain 
6. oxybutynin chloride 5 mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute pancreatitis
Duodenal diverticulum
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ for abdominal pain. You were found to 
have inflammation of the pancreas called pancreatitis. Your 
abdominal pain improved and the surgery teams plans for 
outpatient surgery in the coming month.
 
Followup Instructions:
___